US07329664B2
Dissolve 6-amino-3′-trifluoromethyl-[2,2′]bipyridinyl-5-carboxylic acid amide (0.5 g, 1.75 mmol) in anhydrous THF (25 mL) under N2 atmosphere. Add dropwise pyridine (0.325 mL, 4.0 mmol) and isobutoxyacetyl chloride (0.2 mL, 4.04 mmol) to the reaction mixture and stir at room temperature overnight. Add 10% aq. NaOH (10 mL) and stir at 50° C. for 4 hours. Concentrate in vacuum, adjust the pH to 6.0 using AcOH, collect the solid by filtration and purify by column chromatography to give 2-isobutoxymethyl-7-(3-trifluoromethyl-pyridin-2-yl)-3H-pyrido[2,3-d]pyrimidin-4-one as a white solid.

reactant | 6-amino-3′-trifluoromethyl-[2,2′]bipyridinyl-5-carboxylic acid amide | 1.75 mmol, 0.5 g | NC1=C(C=CC(=N1)C1=NC=CC=C1C(F)(F)F)C(=O)N | C12H9F3N4O
reactant | pyridine | 4.0 mmol, 0.325 mL | N1=CC=CC=C1 | C5H5N
reactant | isobutoxyacetyl chloride | 4.04 mmol, 0.2 mL | C(C(C)C)OCC(=O)Cl | C6H11ClO2
reactant | NaOH | 10 mL | [OH-].[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2-isobutoxymethyl-7-(3-trifluoromethyl-pyridin-2-yl)-3H-pyrido[2,3-d]pyrimidin-4-one | C(C(C)C)OCC=1NC(C2=C(N1)N=C(C=C2)C2=NC=CC=C2C(F)(F)F)=O | C18H17F3N4O2
